US09216965B2
A mixture of 6-bromo-7-fluoroquinolin-4(1H)-one/6-bromo-5-fluoroquinolin-4(1H)-one (37.6 g, 155 mmol) and phosphorus oxychloride (101 ml, 1087 mmol) was stirred at RT overnight. The POCl3 was removed via rotovap and the resulting material was dissolved into DCM. This mixture was quenched (very carefully) via pipette addition of sat. aq. Na2CO3. Once the mixture was neutralized, the layers were separated. The aqueous layer was further extracted with DCM. The combined organic layers were concentrated. The resulting material was taken into EtOAc and passed through a short plug of silica gel and concentrated to yield 6-bromo-4-chloro-7-fluoroquinoline/6-bromo-4-chloro-5-fluoroquinoline (40.42 g, 100%) of a brown solid that was a mixture of regioisomers (31:69, by LCMS). MS: m/z: 260.0/262.0 [M+H]+.

reactant | 6-bromo-7-fluoroquinolin-4(1H)-one 6-bromo-5-fluoroquinolin-4(1H)-one | 155 mmol, 37.6 g | BrC=1C=C2C(C=CNC2=CC1F)=O.BrC=1C(=C2C(C=CNC2=CC1)=O)F | 2C9H5BrFNO
reactant | phosphorus oxychloride | 1087 mmol, 101 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-bromo-4-chloro-7-fluoroquinoline 6-bromo-4-chloro-5-fluoroquinoline | 40.42 g, 100% | BrC=1C=C2C(=CC=NC2=CC1F)Cl.BrC=1C(=C2C(=CC=NC2=CC1)Cl)F | 2C9H4BrClFN
